### PR TITLE
[Merged by Bors] - feat: misc. lemmas about moments, tilted measures

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/SpecialFunctions/Basic.lean [hunk 1]
```diff
@@ -37,20 +39,26 @@ theorem measurable_log : Measurable log :=
...
   rw [this]
   exact measurable_log.comp_aemeasurable hf
 
+lemma aemeasurable_of_aemeasurable_exp_mul {t : ℝ}
+    (ht : t ≠ 0) (hf : AEMeasurable (fun x ↦ exp (t * f x)) μ) :
+    AEMeasurable f μ := by
+  suffices AEMeasurable (fun x ↦ t * f x) μ by
+    rw [show f = fun x ↦ (t * f x) / t by ext; field_simp]
+    exact this.div aemeasurable_const
+  exact aemeasurable_of_aemeasurable_exp hf
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SpecialFunctions/Basic.lean:60]: Optional golf:
```suggestion
  simpa only [mul_div_cancel_left₀ _ ht]
    using (aemeasurable_of_aemeasurable_exp hf).div (aemeasurable_const (b := t))
```

File: Mathlib/MeasureTheory/Order/Group/Lattice.lean [hunk 2]
```diff
@@ -47,3 +47,8 @@ theorem measurable_mabs : Measurable (mabs : α → α) :=
 @[to_additive (attr := measurability)]
 protected theorem Measurable.mabs (hf : Measurable f) : Measurable fun x ↦ mabs (f x) :=
   measurable_mabs.comp hf
+
+@[to_additive (attr := measurability)]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Order/Group/Lattice.lean:51]: Could tou also add the `fun_prop` attribute (to this one and the one above)?

File: Mathlib/Probability/Moments.lean [hunk 3]
```diff
@@ -180,6 +185,12 @@ theorem mgf_pos [IsProbabilityMeasure μ] (h_int_X : Integrable (fun ω => exp (
     0 < mgf X μ t :=
   mgf_pos' (IsProbabilityMeasure.ne_zero μ) h_int_X
 
+lemma exp_cgf_of_ne_zero (hμ : μ ≠ 0) (hX : Integrable (fun ω ↦ exp (t * X ω)) μ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:188]:
```suggestion
lemma exp_cgf_of_ne_zero [NeZero μ] (hX : Integrable (fun ω ↦ exp (t * X ω)) μ) :
```
looks more standard

**Review by sgouezel — COMMENTED** [review]
bors d+
